US04030925
10. 1,3-Bis[4-(2-benzoylhydrazino)phenyl]thiourea (NA-6)
Sodium carbonate (4.65 g, 0.044 mole) was dissolved in a solvent mixture of water (95 ml) and ethanol (30 ml). Bis(carboxymethyl)trithiocarbonate (2.5 g, 0.011 mole) was added portionwise. Vigorous stirring of the reaction mixture was maintained until all solid was dissolved. It was then heated to 80°-85° C and 1-benzoyl-2-(4-aminophenyl)hydrazine (5.0 g, 0.022 mole) was added in one portion. Stirring and heating were maintained for one and one-half hour and the reaction mixture was then chilled. The solid was removed by filtration, washed and dried. Yield 2.05 g (37%), m.p. 185°-187° C.

reactant | Sodium carbonate | 0.044 mole, 4.65 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Bis(carboxymethyl)trithiocarbonate | 0.011 mole, 2.5 g | C(=O)(O)CSC(SCC(=O)O)=S | C5H6O4S3
reactant | 1-benzoyl-2-(4-aminophenyl)hydrazine | 0.022 mole, 5.0 g | C(C1=CC=CC=C1)(=O)NNC1=CC=C(C=C1)N | C13H13N3O
solvent | water | 95 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1,3-Bis[4-(2-benzoylhydrazino)phenyl]thiourea | C(C1=CC=CC=C1)(=O)NNC1=CC=C(C=C1)NC(=S)NC1=CC=C(C=C1)NNC(C1=CC=CC=C1)=O | C27H24N6O2S
